US05486466
3,5-Bis (tert-butyldimethylsilyloxy)-6-[[[(R)-2-[(S)-1-tertbutoxyformamido)-3-hydroxypropionylamino]-2-methoxycarbonylethyl]thio]methyl]-2-methylbenzoic acid was lactonized in analogous manner to the procedure described in Example 1 to afford, upon chromatographic purification on silica gel using ethyl acetate/hexane (1: 3, v/v) as eluent, tert-butyl (4R, 7S)-12,14-bis (tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6, 10-dioxo-9, 2,5-benzooxathiaazacyclododecine-7-carbamate as a pale yellow foam. To a solution of 21.4 g of this material in 300 ml of methanol were added 3.3 g of ammonium fluoride, and the mixture was stirred for 30 minutes at room temperature. The solvent was evaporated in vacuo. The residue chromatographed on silica gel using ethyl acetate/hexane (1:1, v/v) as eluent, and the purified product was crystallized from ethyl acetate/hexane to afford 11.0 g of tert-butyl (4R,7S)-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate.

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | tert-butyl (4R, 7S)-12,14-bis (tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6, 10-dioxo-9, 2,5-benzooxathiaazacyclododecine-7-carbamate | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O[Si](C)(C)C(C)(C)C | C33H56N2O9SSi2
reactant | ammonium fluoride | 3.3 g | [F-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
product | tert-butyl (4R,7S)-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 11.0 g | OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O | C21H28N2O9S
